US05962746
Giving Benzoyl Peroxide as Major Product: A beaker was loaded with 1.23 g ~85% KOH pellets (19 mmoles) dissolved up to 15.9 ml with water, 2.04 ml of 30% aqueous hydrogen peroxide (20 inmoles), 50 ml of Freon® E1, and 2.32 ml of benzoyl chloride (20 mmoles) with ice bath cooling. An ultrasonic horn connected to a 40 Khz, 150 watt Dukane power source was started up at maximum power and lowered into the reaction mixture. After 25 seconds, ultrasonication was stopped, the solids filtered off, washed with water, and sucked dry on the filter. This gave 1.52 g of white solid, a 63% yield of benzoyl peroxide based on starting benzoyl chloride. The filtrate was brought to pH ~1 by the addition of concentrated sulfuric acid and then extracted three times with methylene chloride. The three methylene chloride extracts had a combined volume of 80 ml, 10.0 ml of which took 0.2 ml of 0.1 N thiosulfate in iodometric peroxide titration. The failure to find significant amounts of peroxide in the methylene chloride extracts indicates that little if any benzoyl hydroperoxide [C6H5 (C=O)OOH] was formed during the reaction.

reactant | KOH | 1.23 g | [OH-].[K+]
reactant | hydrogen peroxide | 2.04 ml | OO | H2O2
reactant | benzoyl chloride | 20 mmoles, 2.32 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | O | H2O
product | benzoyl peroxide | 63% yield | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
